US06090797
1-Methylpiperidine-4-carboxylic acid (2-thiophen-3-yl-ethyl)-amide (1.2 g) POCl3 (1.22 ml) were reacted in toluene (50 ml) exactly as described in example 4. 1.1 g of [7-(1-Methylpiperidin-4-yl)-4,5,-dihydrothieno[2,3-c]pyridine was isolated identified by NMR and MS: M+=234.

reactant | 1-Methylpiperidine-4-carboxylic acid (2-thiophen-3-yl-ethyl)-amide | 1.22 ml, 1.2 g | S1C=C(C=C1)CCNC(=O)C1CCN(CC1)C | C13H20N2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(1-Methylpiperidin-4-yl)-4,5,-dihydrothieno[2,3-c]pyridine | CN1CCC(CC1)C1=NCCC2=C1SC=C2 | C13H18N2S
